US07105517B2
a) N-[4-(2-Amino-4-phenyl-thiazol-5-yl)-pyrimidin-2-yl]-N-(3-iodo-phenyl)-amine
A mixture of 5-(2-methylsulfinyl-pyrimidin-4-yl)-4-phenyl-2-amino-thiazole (2.0 g, 6.3 mmol) and m-iodoaniline (7.0 g, 31.6 mmol) is heated at +100° C. After the addition of boron trifluoride diethyl etherate (3 drops) the solution is heated at +150° C. for half an hour. On cooling the product starts to crystallize. The N-[4-(2-amino-4-phenyl-thiazol-5-yl)-pyrimidin-2-yl]-N-(3-iodo-phenyl)-amine after chromatography (eluent: 2:1 mixture of ethyl acetate/hexane) has a m.p. of 243–244° C.

reactant | 5-(2-methylsulfinyl-pyrimidin-4-yl)-4-phenyl-2-amino-thiazole | 6.3 mmol, 2.0 g | CS(=O)C1=NC=CC(=N1)C1=C(N=C(S1)N)C1=CC=CC=C1 | C14H12N4OS2
reactant | m-iodoaniline | 31.6 mmol, 7.0 g | IC=1C=C(N)C=CC1 | C6H6IN
catalyst | boron trifluoride diethyl etherate | 3 drops | B(F)(F)F.CCOCC
product | N-[4-(2-Amino-4-phenyl-thiazol-5-yl)-pyrimidin-2-yl]-N-(3-iodo-phenyl)-amine | NC=1SC(=C(N1)C1=CC=CC=C1)C1=NC(=NC=C1)NC1=CC(=CC=C1)I | C19H14IN5S
